US04409215
To a solution of benzhydryl 7-(2-phenylacetamido)-3-allylthiomethyl-3-cephem-4-carboxylate-1-oxide (26 g) in methylene chloride (500 ml) was added dropwise phosphorus trichloride (20 ml) at 5° C. with stirring, and the stirring was continued for an hour. The mixture was poured into a mixture of methylene chloride (200 ml) and water (400 ml), followed by separating out the organic layer, which was washed twice with an aqueous solution of sodium chloride (200 ml) and dried over anhydrous magnesium sulfate. After removal of the solvent, the residue was pulverized with diisopropyl ether to give benzhydryl 7-(2-phenylacetamido)-3-allylthiomethyl-3-cephem-4-carboxylate (22 g).

reactant | benzhydryl 7-(2-phenylacetamido)-3-allylthiomethyl-3-cephem-4-carboxylate-1-oxide | 26 g | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2=O)CSCC=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C32H30N2O5S2
reactant | phosphorus trichloride | 20 ml | P(Cl)(Cl)Cl | Cl3P
reactant | water | 400 ml | O | H2O
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | benzhydryl 7-(2-phenylacetamido)-3-allylthiomethyl-3-cephem-4-carboxylate | 22 g | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)CSCC=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C32H30N2O4S2
